US09422281B2
A 500-mL round-bottom flask was purged with nitrogen and charged with cyclobutyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (15.0 g, 40.9 mmol), tert-butyl 4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (20 g, 68 mmol), cesium carbonate (40.0 g, 123 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (2.0 g, 2.45 mmol), 1,4-dioxane (150 mL), and water (15 mL). The resulting mixture was stirred overnight at 100° C. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (200 mL) and washed with water (100 mL). The combined organic phases were washed with brine (100 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 1:3, ethyl acetate/petroleum ether) to afford cyclobutyl (S)-4-acetyl-3-methyl-7-(1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (9.0 g, 62%) of as a yellow solid. MS (ESI, pos. ion) m/z 355 [M+H]+.

reactant | cyclobutyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 40.9 mmol, 15.0 g | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC1CCC1)C | C16H19BrN2O3
reactant | tert-butyl 4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 68 mmol, 20 g | CC1(C(OB(O1)C=1C=NN(C1)C(=O)OC(C)(C)C)(C)C)C | C14H23BN2O4
reactant | cesium carbonate | 123 mmol, 40.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 15 mL | O | H2O
product | cyclobutyl (S)-4-acetyl-3-methyl-7-(1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 9.0 g, 62% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NNC1)C(=O)OC1CCC1)C | C19H22N4O3
